US04954518
3.73 g of 3-cyano-6-(2-fluorophenoxy)-7-methylsulfonylamino-4H-1-benzopyran-4-one was dissolved in 100 ml of formic acid saturated with hydrogen chloride. The mixture was stirred for 24 hours at 25°-30° C. The solvent was removed by distillation under reduced pressure. The residue was mixed with 100 ml of water. The resulting crystal was collected by filtration and recrystallized from acetic acid to obtain 2.54 g (yield: 65%) of 3-carbamoyl-6-(2-fluorophenoxy)-7-methylsulfonylamino-4H-1-benzopyran-4-one. The properties (melting point and IR) of this compound agreed with those of the compound obtained in Example 4.

reactant | 3-cyano-6-(2-fluorophenoxy)-7-methylsulfonylamino-4H-1-benzopyran-4-one | 3.73 g | C(#N)C1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=C(C=CC=C2)F | C17H11FN2O5S
reactant | formic acid | 100 ml | C(=O)O | CH2O2
solvent | hydrogen chloride | Cl | ClH
product | 3-carbamoyl-6-(2-fluorophenoxy)-7-methylsulfonylamino-4H-1-benzopyran-4-one | 2.54 g, yield: 65% | C(N)(=O)C1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=C(C=CC=C2)F | C17H13FN2O6S
